US06562828B1
4-(2-Amidino-8-chloronaphthalen-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic Acid Ethyl Ester Dihydrochloride
Hydrogen sulfide was blown into a solution of 4-(8-chloro-2-cyanonaphthalen-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic acid ethyl ester (124 mg) in a mixture of pyridine (2.5 ml) and triethylamine (0.5 ml) with ice-cooling, and the mixture was stirred at room temperature for 12 hours. After completion of the reaction, the solvent was evaporated and the residue was treated with hydrogen chloride-ethanol. To the residue were added acetone (2 ml), methanol (2 ml) and methyl iodide (0.172 ml), and the mixture was stirred under reflux for 2 hours. After completion of the reaction, the solvent was evaporated and the obtained residue was dissolved in ethanol (4 ml). Ammonium acetate (106 mg) was added, and the mixture was stirred at 75° C. for 2 hours. After completion of the reaction, the solvent was evaporated and the obtained residue was purified by silica gel column chromatography (chloroform:methanol:ammonia). The obtained residue was treated with hydrogen chloride-ethanol and dried under reduced pressure to give the title compound (92 mg).

reactant | Hydrogen sulfide | S | H2S
reactant | 4-(8-chloro-2-cyanonaphthalen-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic acid ethyl ester | 124 mg | C(C)OC(=O)C1(CCN(CC1)C1=CC=NC=C1)COC1=CC=C2C=CC(=CC2=C1Cl)C#N | C25H24ClN3O3
reactant | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 4-(2-Amidino-8-chloronaphthalen-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic Acid Ethyl Ester Dihydrochloride | 92 mg | Cl.Cl.C(C)OC(=O)C1(CCN(CC1)C1=CC=NC=C1)COC1=CC=C2C=CC(=CC2=C1Cl)C(N)=N | InChI=1S/C25H27ClN4O3.2ClH/c1-2-32-24(31)25(9-13-30(14-10-25)19-7-11-29-12-8-19)16-33-21-6-5-17-3-4-18(23(27)28)15-20(17)22(21)26;;/h3-8,11-12,15H,2,9-10,13-14,16H2,1H3,(H3,27,28);2*1H
